US07569578B2
(±)-tert-Butyl 1-(1-((2-chloro-6-methylpyridin-4-yl)methyl)-1H-imidazol-2-yl)-2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)ethylcarbamate
tert-Butyl-1-(1H-imidazol-2-yl)-2-(7-methyl-2-[{2-[trimethylsilyl]ethoxy}methyl]-2H-indazol-5-yl)ethylcarbamate (0.1 g, 0.212 mmol), 2-chloro-4-(chloromethyl)-6-methylpyridine (39.0 mg, 0.222 mmol, 1.05 equiv), and cesium carbonate (0.21 g, 0.64 mmol) were combined in dimethylformamide (2.0 mL). After stirring at room temperature for 16 h, the solvents were removed and the residue purified by column chromatography to afford 0.1 g (77%). Mass spec.: 611.21 (MH)+.

reactant | tert-Butyl-1-(1H-imidazol-2-yl)-2-(7-methyl-2-[{2-[trimethylsilyl]ethoxy}methyl]-2H-indazol-5-yl)ethylcarbamate | 0.212 mmol, 0.1 g | C(C)(C)(C)OC(NC(CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C)C=1NC=CN1)=O | C24H37N5O3Si
reactant | 2-chloro-4-(chloromethyl)-6-methylpyridine | 0.222 mmol, 39.0 mg, 1.05 equiv | ClC1=NC(=CC(=C1)CCl)C | C7H7Cl2N
reactant | cesium carbonate | 0.64 mmol, 0.21 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
product | (±)-tert-Butyl 1-(1-((2-chloro-6-methylpyridin-4-yl)methyl)-1H-imidazol-2-yl)-2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)ethylcarbamate | ClC1=NC(=CC(=C1)CN1C(=NC=C1)C(CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C)NC(OC(C)(C)C)=O)C | C31H43ClN6O3Si
